US07842685B2
To a solution of sodium hexamethyldisilylazide (1.0 M in THF) (9.36 mL, 9.36 mmol) in 10 mL THF at −78° C. was added (rac)-1-(3,3-difluorocyclopentyl)ethanone (1.26 g, 8.50 mmol) in THF slowly dropwise via cannula. After 15 min, a solution of 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (3.04 g, 8.50 mmol) in THF was added dropwise via cannula. After 3 h, the reaction mixture was quenched with saturated aq. NaHCO3 and diluted with Et2O. The organic layer was washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo to give an oil. Purification by silica gel chromatography, 0-10% EA/hexanes, gave impure (rac)-1-(3,3-difluorocyclopentyl)vinyl trifluoromethanesulfonate which was used in the next step without further purification.

reactant | (rac)-1-(3,3-difluorocyclopentyl)ethanone | 8.50 mmol, 1.26 g | FC1(CC(CC1)C(C)=O)F | C7H10F2O
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 8.50 mmol, 3.04 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (rac)-1-(3,3-difluorocyclopentyl)vinyl trifluoromethanesulfonate | FC(S(=O)(=O)OC(=C)C1CC(CC1)(F)F)(F)F | C8H9F5O3S
